US07399775B2
3-[(2,5-difluorophenyl)-hydroxymethyl]pyridine
Under an argon atmosphere, a tetrahydrofuran solution (1.5 ml, 3 mmol) of isopropylmagnesium chloride was added dropwise to a tetrahydrofuran (2 ml) solution of 3-bromopyridine (286 μl, 3 mmol) under ice cooling. The resulting mixture was stirred at room temperature for 60 minutes. Under ice cooling, 2,5-difluorobenzaldehyde (328 μl, 3 mmol) was added dropwise to the resulting brown solution. The temperature of the reaction mixture was raised gradually to room temperature. To the reaction mixture was added a saturated aqueous solution of ammonium chloride and then, the mixture was extracted with ethyl acetate. The solvent was dried, followed by concentration under reduced pressure. The residue thus obtained was purified by silica gel chromatography (hexane:ethyl acetate=1:1), whereby the title compound (296 mg, 45%) was obtained as needle crystals.

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 3-bromopyridine | 3 mmol, 286 μl | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2,5-difluorobenzaldehyde | 3 mmol, 328 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mmol, 1.5 ml | O1CCCC1 | C4H8O
product | 3-[(2,5-difluorophenyl)-hydroxymethyl]pyridine | FC1=C(C=C(C=C1)F)C(C=1C=NC=CC1)O | C12H9F2NO
